US06177440B1
E. [9-[(Cyclopentyl)methyl]-5-carbamoylcarbazol-4-yl]oxyacetic acid
A slurry of [9-[(cyclopentyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester (20 mg, 0.065 mmol) in 0.3 mL of THF and 0.1 mL of MeOH was treated with 0.1 mL of 1 N aq LiOH (0.1 mmol), and the mixture stirred at room temperature for 2 hours. The reaction was acidified with 0.2 N HCl, and the organics were removed in vacuo. The white precipitate was filtered away from the aqueous layer and rinsed with Et2O to afford 15 mg (0.0409 mmol; 63%) the title acid as a white powder. MS (ES) m/e 367 (M+1), 350 (M+H−NH3), 365 (M−1).

reactant | [9-[(cyclopentyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 0.065 mmol, 20 mg | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O | C22H24N2O4
reactant | LiOH | 0.1 mmol, 1 N, 0.1 mL | [Li+].[OH-]
reactant | HCl | 0.2 N | Cl | ClH
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.1 mL | CO | CH4O
product | [9-[(Cyclopentyl)methyl]-5-carbamoylcarbazol-4-yl]oxyacetic acid | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)O)C(N)=O | C21H22N2O4
